US09056859B2
A mixture of ethyl 2-[2-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]propanoate (300 mg, 1.1 mmol) in 8 mL of MeOH/THF/H2O (2:2:1) was added LiOH.H2O (75 mg, 1.8 mmol) and stirred for 30 min at room temperature. The reaction was acidified with citric acid until pH about 3˜4. Extracted with EtOAc, the combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated to give 2-[2-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]propanoic acid. 1H-NMR (400 MHz, CDCl3) δ ppm 9.51 (s, 1H), 7.86-7.91 (m, 2H), 4.00-4.05 (m, 1H), 2.64 (s, 3H), 1.57 (d, J=7.8 Hz, 3H).

reactant | ethyl 2-[2-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]propanoate | 1.1 mmol, 300 mg | CC1=NC(=CC=C1C(C(=O)OCC)C)N1N=NN=C1 | C12H15N5O2
reactant | LiOH.H2O | 1.8 mmol, 75 mg | O[Li].O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH THF H2O | 8 mL | CO.C1CCOC1.O
product | 2-[2-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]propanoic acid | CC1=NC(=CC=C1C(C(=O)O)C)N1N=NN=C1 | C10H11N5O2
